US09302985B2
To a solution of 4-fluoroaniline (1 g, 9 mmol) in DCM (20 mL) at room temperature was added isobutyraldehyde (985 μL, 10.8 mmol) followed by portionwise sodium triacetoxyborohydride (2.86 g, 13.5 mmol) and the reaction was stirred at room temperature for 64 hours. The reaction was concentrated and then dissolved in DCM and MeOH, dry loaded onto silica then purified by silica gel column chromatography (0-25% DCM in cyclohexane) to give (4-fluoro-phenyl)-isobutyl-amine (817 mg, 54%). LCMS (m/z, Method A) ES+ 168 [M+1]+.

reactant | 4-fluoroaniline | 9 mmol, 1 g | FC1=CC=C(N)C=C1 | C6H6FN
reactant | isobutyraldehyde | 10.8 mmol, 985 μL | C(C(C)C)=O | C4H8O
reactant | sodium triacetoxyborohydride | 13.5 mmol, 2.86 g | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
solvent | DCM | 20 mL | C(Cl)Cl | CH2Cl2
product | (4-fluoro-phenyl)-isobutyl-amine | 817 mg, 54% | FC1=CC=C(C=C1)NCC(C)C | C10H14FN
